US07888376B2
To a solution of tert-butyl 4-(3-(dibenzylamino)-2,2-difluoropropoxy)butanoate (120 mg, 0.29 mmol) in EtOH (1 mL) was added 50 mg Pd(OH)2 (10 mg, 20% on C) followed by the addition of TFA (25 μL). The reaction mixture was stirred at room temperature under H2 for 18 h. The solid was removed by filtration and the filtrate was concentrated under reduced pressure to yield tert-butyl 4-(3-amino-2,2-difluoropropoxy)butanoate (50 mg, 72% yield).

reactant | tert-butyl 4-(3-(dibenzylamino)-2,2-difluoropropoxy)butanoate | 0.29 mmol, 120 mg | C(C1=CC=CC=C1)N(CC(COCCCC(=O)OC(C)(C)C)(F)F)CC1=CC=CC=C1 | C25H33F2NO3
reactant | TFA | 25 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 50 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl 4-(3-amino-2,2-difluoropropoxy)butanoate | 50 mg, 72% yield | NCC(COCCCC(=O)OC(C)(C)C)(F)F | C11H21F2NO3
